* testskeem opvoimendi voimenduse-ribalaiuse korrutise maaramiseks

VCC vp 0 DC 9
VEE vn 0 DC -9

VIN inp 0 AC 1

R1 inn 0 1k
R2 out inn 9k
RL out 0 10k

XU1 inp inn vp vn out OP07
.include op07.txt

.ac dec 100 1 100meg

.control
reset
run
meas ac av0 find vm(out) at=10
let av3db = av0/sqrt(2)
meas ac f3db when vm(out)=av3db
let gbw = 10*f3db
print av0
print av3db
print f3db
print gbw

set filetype=ascii
wrdata op07_gbw.txt frequency vm(out)
.endc

.end